US08048862B2
To a solution of crude 1-(hydroxy)-2-sulfamoylbenzene (400 mg, 2.4 mmol.) in 60 mL of acetonitrile was added 2-bromo-N-methylacetamide (332 mg, 2.4 mmol.), K2CO3 (662 mg, 4.8 mmol.) and KI (400 mg, 2.4 mmol.). The reaction mixture was stirred at room temperature for 4 h. The reaction mixture was filtered, concentrated and purified by prep-TLC to afford 2-(2-sulfamoylphenoxy)-N-methylacetamide (260 mg, 47%).

reactant | 1-(hydroxy)-2-sulfamoylbenzene | 2.4 mmol, 400 mg | OC1=C(C=CC=C1)S(N)(=O)=O | C6H7NO3S
reactant | 2-bromo-N-methylacetamide | 2.4 mmol, 332 mg | BrCC(=O)NC | C3H6BrNO
reactant | K2CO3 | 4.8 mmol, 662 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-(2-sulfamoylphenoxy)-N-methylacetamide | 260 mg, 47% | S(N)(=O)(=O)C1=C(OCC(=O)NC)C=CC=C1 | C9H12N2O4S
